US04051129
To a suspension of 3.28g of 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid in 60 ml of methanol was added 1.81g of dicyclohexylamine and stirred for 1 hour, and then 2.40g of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde, 20 ml of chloroform and 5g of molecular sieve 3A were added to the mixture and stirring was continued for further 5 hours. After filtration of the reaction mixture, the filtrate was concentrated to dryness under reduced pressure. The residue was extracted with chloroform-isopropylether (1:1) and the extract was condensed under reduced pressure and then diluted with a large excess of isopropylether. A precipitate thus produced was collected by filtration to give 7.04g of dicyclohexylammonium 7β-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate. To a solution of 1.45g of this compound in 20 ml of methanol was dropwise added at -15° C a solution of 475 mg of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 4 ml of methanol. After stirring for 10 minutes at the same temperature, 100 mg of 2,6-di-tert.-butyl-p-cresol was added to the mixture and stirred for another 10 minutes at 0° C. After adding 0.56 ml of triethylamine the reaction mixture was condensed to about 10 ml under reduced pressure, diluted with 50 ml of chloroform, washed four times with the same volume of water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was extracted with a mixture of chloroform-ether (3:7). The extract was condensed and subsequently added a large excess of n-hexane to deposit a precipitate, which was collected by filtration giving 926 mg of the desired product as a yellow powder.

reactant | 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.28g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | dicyclohexylamine | 1.81g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | 2.40g | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
reactant | isopropylether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 60 ml | CO | CH4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | dicyclohexylammonium 7β-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 7.04g | OC1=C(C=C(C=N[C@H]2[C@@H]3N(C(=C(CS3)CSC3=NN=NN3C)C(=O)[O-])C2=O)C=C1C(C)(C)C)C(C)(C)C.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C25H32N6O4S2.C12H23N/c1-24(2,3)15-8-13(9-16(19(15)32)25(4,5)6)10-26-17-20(33)31-18(22(34)35)14(11-36-21(17)31)12-37-23-27-28-29-30(23)7;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h8-10,17,21,32H,11-12H2,1-7H3,(H,34,35);11-13H,1-10H2/t17-,21-;/m1./s1
